US03991200
Preparation of 2-{2-[4-(3-Dimethylaminopropyl)-1-piperazinyl]-5-thiadiazolyl}-1-methyl-5-nitroimidazole
A solution of 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole in 200 ml. of dioxane is treated with 5.1 g. of 1-(3-dimethylaminopropyl)piperazine, and the mixture stirred at room temperature for 18 hours. The precipitate is collected, dissolved in 100 ml. of water, made alkaline with sodium hydroxide solution, and then extracted with 500 ml. of chloroform. The chloroform extract is dried and the solvent removed under reduced pressure. The yellow residue is recrystallized from 100 ml. of ethanol to give 2.9 g. of product, melting at 174°-175° C.

reactant | 2-(2-chloro-5-thiadiazolyl)-1-methyl-5-nitroimidazole | ClN1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C | C6H6ClN5O2S
reactant | 1-(3-dimethylaminopropyl)piperazine | CN(CCCN1CCNCC1)C | C9H21N3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-{2-[4-(3-Dimethylaminopropyl)-1-piperazinyl]-5-thiadiazolyl}-1-methyl-5-nitroimidazole | CN(CCCN1CCN(CC1)N1SC(=CN1)C=1N(C(=CN1)[N+](=O)[O-])C)C | C15H26N8O2S
